US05037824
To a solution of 3-amino-4-(3-cyanophenyl)-2-methyl-6-phenylpyridine (0.6 g) and pyridine (0.2 g) in toluene (10 ml) was added 3-chloropropionyl chloride (0.32 g) at 0° C. The mixture was stirred at the same temperature for 30 minutes and further at ambient temperature for 6 hours. After the mixture was allowed to stand at ambient temperature for 3 days, N,N-dimethylformamide (10 ml) was added thereto to dissolve the precipitates. The mixture was stirred at ambient temperature for 5 hours, diluted with ice-cold water (50 ml) and ethyl acetate (50 ml), and adjusted to pH 10 with 5N sodium hydroxide. The separated organic layer was washed with brine, dried and concentrated in vacuo. The residue was triturated with diisopropyl ether to give 3-(3-chloropropionylamino)-4-(3-cyanophenyl)-2-methyl-6-phenylpyridine (0.48 g).

reactant | 3-amino-4-(3-cyanophenyl)-2-methyl-6-phenylpyridine | 0.6 g | NC=1C(=NC(=CC1C1=CC(=CC=C1)C#N)C1=CC=CC=C1)C | C19H15N3
reactant | pyridine | 0.2 g | N1=CC=CC=C1 | C5H5N
reactant | 3-chloropropionyl chloride | 0.32 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(3-chloropropionylamino)-4-(3-cyanophenyl)-2-methyl-6-phenylpyridine | 0.48 g | ClCCC(=O)NC=1C(=NC(=CC1C1=CC(=CC=C1)C#N)C1=CC=CC=C1)C | C22H18ClN3O
